US07407971B2
tert-Butyl 3-amino-6,6-dimethyl-2,6-dihydropyrrolo[3,4-c]pyrazole-5(4H)-carboxylate
32 g of tert-Butyl 4-cyano-3-hydroxy-2,2-dimethyl-2,5-dihydro-1H-pyrrole-1-carboxylate (0.134 mol) were added to 430 ml of absolute ethanol. To this solution, 9 ml (0.18 mol) of hydrazine hydrate were added, followed by 12 ml of glacial AcOH (1.5 eq); The mixture was stirred at 60° C. for 48 hours, the ethanol was removed, the residue was taken up with 400 ml of sodium hydrogencarbonate solution, and extracted several times with ethyl acetate up to total extraction of the desired product. The organic phases were dried and evaporated. After purification by flash chromatography (eluent CHCl3/EtOH 97/3) and trituration with a mixture of hexane/ethyl acetate 9/1, 25 g of title compound were obtained.

reactant | tert-Butyl 4-cyano-3-hydroxy-2,2-dimethyl-2,5-dihydro-1H-pyrrole-1-carboxylate | 0.134 mol, 32 g | C(#N)C1=C(C(N(C1)C(=O)OC(C)(C)C)(C)C)O | C12H18N2O3
reactant | hydrazine hydrate | 0.18 mol, 9 ml | O.NN
reactant | AcOH | 12 ml, 1.5 eq | CC(=O)O | C2H4O2
solvent | ethanol | 430 ml | C(C)O | C2H6O
product | tert-Butyl 3-amino-6,6-dimethyl-2,6-dihydropyrrolo[3,4-c]pyrazole-5(4H)-carboxylate | 25 g, yield: 88% | NC1=C2C(=NN1)C(N(C2)C(=O)OC(C)(C)C)(C)C | C12H20N4O2
